* D:\FPGA\TP_Ltspice\LatchFlipFlop_TD__265__0\Flipflop\flipflop.asc
V1 S 0 PULSE(0 1 0 3ns 3ns 2ms 4ms)
V2 CLK 0 PULSE(1 0 0 3ns 3ns 0.5ms 1ms)
A2 S 0 CLK 0 CLR #Q Q 0 DFLOP
V3 CLR 0 PULSE(0 1 0 3ns 3ns 2ms 4ms 1)
.tran 10ms
.backanno
.end
