* D:\FPGA\TP_Ltspice\Régistre\Registre.asc
A1 S 0 CLK 0 CLR Q Q 0 DFLOP
V1 S 0 PULSE(0 1 0 3ns 3ns 2ms 4ms)
V3 CLR 0 PULSE(0 1 0 3ns 3ns 2ms 4ms 1)
V2 CLK 0 PULSE(1 0 0 3ns 3ns 0.5ms 1ms)
.tran 10ms
.backanno
.end
