* C:\Users\Sefofo\OneDrive\Sefofo\OneDrive\Bureau\Formation_FPGA\Formatiion_FPGA\Ltpsice\Porteslogiques\Inverseuse\nMos.asc
V1 N001 0 5V
V2 N002 0 PULSE(0 5 0 30ns 30ns 2ms 4ms)
M1 OUT N002 0 0 AONS32100
R1 N001 OUT 1kR
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Sefofo\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 10ms
.backanno
.end
